US05576343
14.2 g of ethyl 2-ethoxycarbonyl-2-(4-methoxyphenyl)acetate was dissolved in 150 ml of tetrahydrofuran. 2.6 g of sodium hydride (oil type, 60%) was added to the above solution while stirring under ice cooling, and the stirring was continued for 20 minutes. To this was further added 17.2 g of 5-bromo-2-bromomethylbenzo[b]thiophene. After stirring at room temperature for 18 hours, the resulting reaction solution was mixed with ammonium chloride aqueous solution, and then extracted with ethyl acetate. After drying to distill off the solvent, the resulting residue was subjected to silica gel column chromatography using chloroform as an elution solvent, thereby obtaining 24.2 g of ethyl 3-(5-bromobenzo[b]thien-2-yl)-2-ethoxycarbonyl-2-(4-methoxyphenyl)propionate.

reactant | ethyl 2-ethoxycarbonyl-2-(4-methoxyphenyl)acetate | 14.2 g | C(C)OC(=O)C(C(=O)OCC)C1=CC=C(C=C1)OC | C14H18O5
reactant | sodium hydride | 2.6 g | [H-].[Na+]
reactant | 5-bromo-2-bromomethylbenzo[b]thiophene | 17.2 g | BrC1=CC2=C(SC(=C2)CBr)C=C1 | C9H6Br2S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | ethyl 3-(5-bromobenzo[b]thien-2-yl)-2-ethoxycarbonyl-2-(4-methoxyphenyl)propionate | 24.2 g | BrC1=CC2=C(SC(=C2)CC(C(=O)OCC)(C2=CC=C(C=C2)OC)C(=O)OCC)C=C1 | C23H23BrO5S
